US06943184B2
Step 1: 1-(1-Pyrrolidinyl)cyclopropanecarbonitrile
A mixture containing a drop of trimethylsilyl chloride and 67.8 g of [(1-ethoxycyclopropyl)oxy]trimethylsilane in 65 ml of methanol is added to 62.6 g of pyrrolidine hydrochloride and 28.7 g of potassium cyanide dissolved in 260 ml of methanol. After stirring for 20 minutes at 20° C., and then for 20 hours at 50° C., the reaction mixture is concentrated to dryness, taken up in dichloromethane, filtered and concentrated to dryness again. The residue is chromatographed over silica gel (CH2Cl2) allowing the desired product to be isolated.

reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 67.8 g | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | pyrrolidine hydrochloride | 62.6 g | Cl.N1CCCC1
reactant | potassium cyanide | 28.7 g | [C-]#N.[K+]
solvent | methanol | 65 ml | CO | CH4O
solvent | methanol | 260 ml | CO | CH4O
product | 1-(1-Pyrrolidinyl)cyclopropanecarbonitrile | N1(CCCC1)C1(CC1)C#N | C8H12N2
